US06320051B1
a) 2-(5-Aminopent-1-ylamino)-4-methoxyquinoline
The title compound was prepared by an analogous procedure to that described in example 1a from 1,5-diaminopentane (5 g, 49 mmol) and 2-chloro-4-methoxyquinoline (0.93 g, 4.8 mmol) to yield, after chromatography over silica gel eluting with an increasing concentration of 9:1 methanol/ammonia in dichloromethane, a cream coloured solid (30%). δH (CDCl3) 1.0-1.8 (8H, envelop), 2.72 (2H, t), 3.4-3.5 (2H, m), 3.97 (3H, s), 4.6-4.79 (1H, m), 5.94 (1H, m), 7.18 (1H, t), 7.51 (1H, t), 7.60 (1H, d), 7.96 (1H, d). MS (ES+) 260 (90%) MH+.

reactant | 1,5-diaminopentane | 49 mmol, 5 g | NCCCCCN | C5H14N2
reactant | 2-chloro-4-methoxyquinoline | 4.8 mmol, 0.93 g | ClC1=NC2=CC=CC=C2C(=C1)OC | C10H8ClNO
reactant | methanol ammonia | CO.N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(5-Aminopent-1-ylamino)-4-methoxyquinoline | NCCCCCNC1=NC2=CC=CC=C2C(=C1)OC | C15H21N3O
